US08431607B2
3-(4-(4-chlorophenoxy)phenyl)-1-(2-(2-hydroxyethylamino)ethyl)-4-(3-(trifluoromethyl)-phenyl)imidazolidin-2-one
To a solution of 2-(3-(4-(4-chlorophenoxy)phenyl)-2-oxo-4-(3-(trifluoromethyl)phenyl)imidazolidin-1-yl)ethyl methanesulfonate (12.0 mg, 0.0216 mmol) in THF (0.3 mL) is added 2-aminoethanol (6.53 μL, 0.108 mmol). The reaction mixture is heated at 80° C. for 2 h before removal of the solvent. The residue is purified by preparatory LC/MS to provide the title compound; HPLC-MS calculated for C26H25ClF3N3O3 (M+H+) 520.2, found 520.2.

reactant | 2-(3-(4-(4-chlorophenoxy)phenyl)-2-oxo-4-(3-(trifluoromethyl)phenyl)imidazolidin-1-yl)ethyl methanesulfonate | 0.0216 mmol, 12.0 mg | CS(=O)(=O)OCCN1C(N(C(C1)C1=CC(=CC=C1)C(F)(F)F)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)=O | C25H22ClF3N2O5S
reactant | 2-aminoethanol | 0.108 mmol, 6.53 μL | NCCO | C2H7NO
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
product | 3-(4-(4-chlorophenoxy)phenyl)-1-(2-(2-hydroxyethylamino)ethyl)-4-(3-(trifluoromethyl)-phenyl)imidazolidin-2-one | ClC1=CC=C(OC2=CC=C(C=C2)N2C(N(CC2C2=CC(=CC=C2)C(F)(F)F)CCNCCO)=O)C=C1 | C26H25ClF3N3O3
